US08334301B2
N-methyl-1-[1-phenyl-2-(phenylsulfinyl)-1H-imidazol-4-yl]methanamine dihydrochloride
To a solution of N-methyl-1-[1-phenyl-2-(phenylthio)-1H-imidazol-4-yl]methanamine dihydrochloride (70 mg) in acetone (20 mL) and water (10 mL) was added dropwise a solution of oxone (176 mg) in water (10 mL), and the mixture was stirred at room temperature for 5 hr. Sodium thiosulfate pentahydrate (1 g) was added to the reaction mixture and the mixture was stirred for 1 hr. A saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with a mixed solution of ethyl acetate-tetrahydrofuran (1:1). The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent:ethyl acetate-methanol=1:0→7:3) and dissolved in methanol (5 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added, and the mixture was concentrated under reduced pressure. The residue was dissolved in a mixed solution of methanol-tetrahydrofuran, and ethyl acetate was added. The precipitated insoluble materials were collected by filtration to give the title compound as a colorless powder (yield 34 mg, yield 47%).

reactant | N-methyl-1-[1-phenyl-2-(phenylthio)-1H-imidazol-4-yl]methanamine dihydrochloride | 70 mg | Cl.Cl.CNCC=1N=C(N(C1)C1=CC=CC=C1)SC1=CC=CC=C1
reactant | oxone | 176 mg | OOS(=O)[O-].[K+]
reactant | Sodium thiosulfate pentahydrate | 1 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | N-methyl-1-[1-phenyl-2-(phenylsulfinyl)-1H-imidazol-4-yl]methanamine dihydrochloride | yield 34 mg, yield 47% | Cl.Cl.CNCC=1N=C(N(C1)C1=CC=CC=C1)S(=O)C1=CC=CC=C1 | InChI=1S/C17H17N3OS.2ClH/c1-18-12-14-13-20(15-8-4-2-5-9-15)17(19-14)22(21)16-10-6-3-7-11-16;;/h2-11,13,18H,12H2,1H3;2*1H
